US09303040B2
tert-Butyl 4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate (5.91 g, 18.42 mmol) was dissolved in concentrated HCl (153.5 ml, 1842 mmol). The reaction mixture stirred at reflux over a weekend. The reaction mixture was cooled to room temperature and washed with ether. The aqueous portion was concentrated on a rotary evaporator, and the solids were dried on a high vacuum line. The solids were dissolved in H2O (35 mL), 10% NaOH (29.47 g, 73.69 mmol), and dioxane (30 mL). Solid Boc2O (4.222 g, 19.34 mmol) was added, and reaction mixture stirred at room temperature overnight (14 hours). The reaction mixture was diluted with H2O and washed with ether. The aqueous portion was acidified with solid KHSO4, then extracted with DCM. The combined extracts were dried (Na2SO4), filtered, and concentrated to give 1-(tert-butoxycarbonyl)-4-(3-chlorophenyl)piperidine-4-carboxylic acid (4.73 g, 75.56% yield) as a white powder. HPLC>98%. LC/MS (APCI−) m/z 338 [M−H]−.

reactant | tert-Butyl 4-(3-chlorophenyl)-4-cyanopiperidine-1-carboxylate | 18.42 mmol, 5.91 g | ClC=1C=C(C=CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H21ClN2O2
reactant | HCl | 1842 mmol, 153.5 ml | Cl | ClH
reactant | NaOH | 73.69 mmol, 29.47 g | [OH-].[Na+]
reactant | Boc2O | 19.34 mmol, 4.222 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | H2O | O | H2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | 1-(tert-butoxycarbonyl)-4-(3-chlorophenyl)piperidine-4-carboxylic acid | 4.73 g, 75.56% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)O)C1=CC(=CC=C1)Cl | C17H22ClNO4
